US08026257B2
4-(Bromomethyl)-6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazole.
To a solution of (6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methanol (165 mg, 0.475 mmol) and carbon tetrabromide (236 mg, 0.712 mmol) in tetrahydrofuran (2 mL) at 0° C. was added triphenylphosphine (187 mg, 0.712 mmol). The ice bath was removed and stirring continued at room temperature for 30 min. The reaction was diluted with several volumes of pentane and filtered to remove undissolved solids which were discarded. The organics were concentrated and purified by column chromatography (4→8% ethyl acetate/hexanes) to give 159 mg (82%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.96 (s, 1H), 7.67 (s, 1H), 6.03 (s, 2H), 5.04 (s, 2H), 3.59 (m, 2H), 0.90 (m, 2H), −0.07 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 145.9, 132.6, 131.6, 130.4 (q, J=33 Hz), 123.7 (q, J=273 Hz), 121.6 (q, J=2.9 Hz), 108.6 (q, J=4.8 Hz), 67.7, 25.9, 17.7, −1.5.

reactant | (6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazol-4-yl)methanol | 0.475 mmol, 165 mg | FC(C=1C=C(C2=C(N(N=N2)COCC[Si](C)(C)C)C1)CO)(F)F | C14H20F3N3O2Si
reactant | carbon tetrabromide | 0.712 mmol, 236 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.712 mmol, 187 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-(Bromomethyl)-6-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d][1,2,3]triazole | BrCC1=CC(=CC=2N(N=NC21)COCC[Si](C)(C)C)C(F)(F)F | C14H19BrF3N3OSi
